### PR TITLE
[Merged by Bors] - feat: add `withDensity_mono`, `withDensity_inv_same` and a few others

### PR DESCRIPTION
**Pull request by RemyDegenne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by RemyDegenne** [comment]
@eric-wieser about your comments on this code from #7671 :
- I added a docstring for the absolutelyContinuous lemma
- I did not replace `fun x ↦ (f x)⁻¹` with `f⁻¹` because the first form is more convenient in the following steps of the proof
- the `₀` in `withDensity_mul₀` indicates that it uses `AEMeasurable` hypotheses instead of `Measurable`, like in `set_lintegral_withDensity_eq_set_lintegral_mul_non_measurable₀` just above. Having both versions of a lemma and using `₀` to differentiate them is a pattern present in several measure theory files. That same `₀` is also used for `NullMeasurableSet` vs `MeasurableSet`. That being said, I am less and less convinced that all this duplication is a good idea: we could just be using `Measurable.aemeasurable` whenever necessary when we want to apply the lemma.

File: Mathlib/MeasureTheory/Measure/WithDensity.lean [hunk 1]
```diff
@@ -379,13 +386,57 @@ theorem set_lintegral_withDensity_eq_set_lintegral_mul_non_measurable₀ (μ : M
...
+  refine ae_of_all _ (fun x ↦ ?_)
+  simp only [Pi.mul_apply, Pi.one_apply]
+  by_cases hx_top : f x = ∞
+  · simp only [hx_top, ENNReal.inv_top, mul_zero, zero_le]
+  by_cases hx_zero : f x = 0
+  · simp only [hx_zero, ENNReal.inv_zero, zero_mul, zero_le]
+  rw [ENNReal.mul_inv_cancel hx_zero hx_top]
+
+lemma withDensity_inv_same₀ {μ : Measure α} {f : α → ℝ≥0∞}
+    (hf : AEMeasurable f μ) (hf_pos : ∀ᵐ x ∂μ, 0 < f x) (hf_ne_top : ∀ᵐ x ∂μ, f x ≠ ∞) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/WithDensity.lean:417]: Could you assume `∀ᵐ x ∂μ, f x ≠ 0` instead of `hf_pos`? Same thing for the next lemmas.

File: Mathlib/MeasureTheory/Measure/WithDensity.lean [hunk 2]
```diff
@@ -379,13 +386,57 @@ theorem set_lintegral_withDensity_eq_set_lintegral_mul_non_measurable₀ (μ : M
...
-    lintegral_withDensity_eq_lintegral_mul _ hf hg]
+  rw [withDensity_apply _ hs, withDensity_apply _ hs, restrict_withDensity hs,
+    lintegral_withDensity_eq_lintegral_mul₀ hf.restrict hg.restrict]
+
+theorem withDensity_mul (μ : Measure α) {f g : α → ℝ≥0∞} (hf : Measurable f) (hg : Measurable g) :
+    μ.withDensity (f * g) = (μ.withDensity f).withDensity g :=
+  withDensity_mul₀ hf.aemeasurable hg.aemeasurable
 #align measure_theory.with_density_mul MeasureTheory.withDensity_mul
 
+lemma withDensity_inv_same_le {μ : Measure α} {f : α → ℝ≥0∞} (hf : AEMeasurable f μ) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/WithDensity.lean:401]: This one is probably true without `hf`, but it's probably not worth it since the proof will be more painful while we will only use your version.

**Comment by sgouezel** [comment]
bors r+
Thanks!
